US06340682B1
Preparation of 1,4-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-N-methylpiperazine-2-carbohydroxamic acid:
Added to a solution of 148 mg (0.24 mmol) of 1,4-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-piperazine-2-carboxylic acid synthesized by the process of Example 34 in anhydrous dimethylformamide (0.5 ml) was 44.9 mg (0.28 mmol) of 1,1′-carbonyldiimidazole. After the mixture was stirred for 15 minutes, 24.9 mg (0.30 mmol) of N-methylhydroxyamine hydrochloride and 0.050 ml (0.36 mmol) of triethylamine were added, and the mixture was stirred for an additional 15 minutes. Added to the reaction mixture was 3 ml of 0.5N hydrochloric acid to conduct extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resultant crude oil (179 mg) was purified by column chromatography on silica gel to obtain 134.6 mg (yield: 87%) of the title compound as pale yellow amorphous powder.

reactant | 1,4-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-piperazine-2-carboxylic acid | 0.24 mmol, 148 mg | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N1C(CN(CC1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)O | C33H38N2O10
reactant | 1,1′-carbonyldiimidazole | 0.28 mmol, 44.9 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylhydroxyamine hydrochloride | 0.30 mmol, 24.9 mg | Cl.CNO
reactant | triethylamine | 0.36 mmol, 0.050 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.5N, 3 ml | Cl | ClH
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1,4-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-N-methylpiperazine-2-carbohydroxamic acid | 134.6 mg, yield: 87% | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N1C(CN(CC1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)N(O)C | C34H41N3O10
